US05696231
Preparation of sarcosine-O-fluorenylmethyl ester hydrochloride salt.
To a solution of Boc-sarcosine (30 g, 158 mmole) in 500 mL dichloromethane was added with stirring carbonyl diimidazole (25.7 g, 158 mmole). After 15 minutes, 9-fluorene methanol (29.5 g, 150 mmole) was added and stirring was continued. After 16 hours, the reaction mixture was diluted with 1200 mL ethyl acetate and extracted with 300 mL each of water, 1M aqueous hydrochloric acid, water, saturated aqueous sodium bicarbonate and brine. The organic phase was dried over anhydrous magnesium sulfate, filtered and the solvent removed in vacuo. The resulting oil was dissolved in 500 mL dichloromethane and treated with 100 mL of a 4.0M solution of hydrochloric acid in dioxane. After 12 hours, the title compound was precipitated by pouring the reaction mixture into ether (1000 mL) with vigorous stirring. The precipitate was filtered and dried in vacuo to provide 35 g (73% yield) of the title compound as an off-white powder.

reactant | Boc-sarcosine | 158 mmole, 30 g | C(=O)(OC(C)(C)C)N(C)CC(=O)O | C8H15NO4
reactant | carbonyl diimidazole | 158 mmole, 25.7 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 9-fluorene methanol | 150 mmole, 29.5 g | C1=CC=CC=2C3=CC=CC=C3C(C12)CO | C14H12O
reactant | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 1200 mL | C(C)(=O)OCC | C4H8O2
product | sarcosine-O-fluorenylmethyl ester hydrochloride salt | 35 g, 73% yield | Cl.C1(=CC=CC=2C3=CC=CC=C3CC12)COC(CNC)=O | InChI=1S/C17H17NO2.ClH/c1-18-10-17(19)20-11-13-6-4-8-15-14-7-3-2-5-12(14)9-16(13)15;/h2-8,18H,9-11H2,1H3;1H
